Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
R face numbness
 
Major Surgical or Invasive Procedure:
tPA 

 
History of Present Illness:
HPI: ___ with hx of HLD, BPH, GERD, C spine and L spine surgery, 
TIA here with R facial weakness, numbness, dysarthria starting 
2:50pm. NIHSS initially 3. 

Patient has been in his normal state of health until 2:50 today 
when driving to meet a client.  While in the car, he gradually 
noticed right periorbital numbness, like Novocain, that slowly 
extended up his jaw and up his face to around the level of his 
eye.  This progression happened over 50-20 minutes.  Throughout 
this he tried to speak and realized that his pronunciation was 
also off and that his S's and his efforts were unclear.  He 
called his outpatient doctor who arranged an urgent outpatient 
visit to see him and got to their office around 3:45 ___.  At 
that point he noticed a dull aching pain in his right temple as 
well as behind his right ear into the back of his head.  This 
headache lasted for several hours and resolved at around 530pm.

From the outpatient office was taken immediately to the nearby 
___ where code stroke was activated, noncontrast head CT 
was negative for bleed, ___ stroke scale reportedly 3 for 
sensory change in the right arm, dysarthria, right lower facial 
droop.  Tele-stroke was contacted and he received TPA at 5:02 
___.

On arrival to our ___, he reports that his speech has improved 
compared to before the TPA.  ___ stroke scale repeated above was 
3 for  right lower more than upper facial weakness, decreased 
sensation to light touch over the right jaw and right forearm, 
as well as very mild dysarthria.  On more detailed neurologic 
exam below the sensory change resolved and upon further 
questioning he reported that the difference in light touch over 
his right face and arm during the first NIHSS exam was 97% on 
the right versus 100% on the left.

Noncontrast head CT with no bleed,  possible small hypodensity 
on one cut in the pons, possibly artifact.  No large vessel 
occlusion/stenosis on CTA head and neck.

Throughout the ___ stay, from arrival to re-evaluation after the 
___, he has progressively more weakness of the R upper face in 
addition to the right lower face - manifested by blink rate, eye 
aperture 

Interestingly, he reports that recently both his mother and his 
brother developed ___ palsy.  He was also recently bitten on 
the tongue by his dog. 

On neuro ROS, the pt denies loss of vision, blurred vision, 
diplopia, dysphagia, lightheadedness, vertigo, hearing 
difficulty. Denies difficulties producing or comprehending 
speech.  Denies focal weakness. No bowel or bladder incontinence 
or retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent illness, 
fever or chills.  Denies cough, shortness of breath.  Denies 
chest pain or tightness, palpitations.  Denies nausea, vomiting, 
diarrhea, constipation or abdominal pain.  No recent change in 
bowel or bladder habits.  No dysuria.  
 

 
Past Medical History:
Hypothyroidism
Hyperlipidemia
BPH
GERD
Herniated disks in both cervical and lumbar spine status post 
cervical spine and lumbar surgery.  Reports C3-4 are fused, C4-5 
and C5-6 are synthetic.  He believes the lumbar disc protrusion 
at L5.  
TIA ×2-the first ___ years ago during which he was pale and 
unsteady on his feet but had no focal neurologic symptoms and 
was told this was a TIA.  The second several years after that 
occurred when he was driving the client when his left arm and 
face went numb and heavy.  No residual deficits
 
Social History:
___
Family History:
Father had stroke in his ___.  Mother had stroke in her ___.
 
Physical Exam:
On admission:

PHYSICAL EXAMINATION
Vitals:  
98.2F, HR 64, 129/83, RR 18, 100% on RA

General:  NAD
HEENT: Tongue is red and has dried blood on the left lateral 
surface - he reports it has been this way since he was bitten by 
his dog. No oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive, able to name ___ backward 
without difficulty. Speech is fluent with full sentences, intact 
repetition, and intact verbal comprehension. Naming intact.  No 
paraphasias.  Normal prosody. No apraxia. No evidence of 
hemineglect. No left-right confusion. Able to follow both 
midline and appendicular commands. At times a very mild 
dysarthria involving lingual or buccal sounds.

- Cranial Nerves: Aniscoria - R<L R ___, L 4--3mm. VF full to 
number counting. EOMI, no nystagmus. V1-V3 without deficits to 
light touch bilaterally. R upper and lower facial weakness with 
asymmetric smile, R eye blink delay, R eye closure weakness, R 
forehead elevation asymmetry. Facial asymmetry does not seem to 
improve with emotional smile. Hearing intact to finger rub 
bilaterally.  Palate elevation symmetric. SCM/Trapezius strength 
___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    4+ 
 FFl - ___ b/l

- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  1+    1+     1+      2+       tr
 R  1+    1+     1+      1+       0  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin. Decreased joint 
propriception at the toes to small amplitude movements, intact 
to large amplitude movements.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements.

- Gait: Normal initiation. Narrow base. Normal stride length and 
arm swing. Small amount of sway with Romberg.

=====

On discharge:

SBP 114-152mmHg

CN:
visual fields full bilaterally
PERRL
Decreased forehead folds on R, weaker eye closure on R
tongue midline
R face 90% sensation to pinprick in V2, 80% sensation in V3
(compared to left)
Hearing intact bilaterally
Tenderness over R facial nerve

Motor: easily antigravity all extremities. ___ throughout

Coord: FNF without dysmetria

 
Pertinent Results:
___ 07:00AM BLOOD WBC-8.8 RBC-4.79 Hgb-14.8 Hct-43.5 MCV-91 
MCH-30.9 MCHC-34.0 RDW-11.9 RDWSD-39.4 Plt ___
___ 06:30PM BLOOD Neuts-65.2 ___ Monos-7.3 Eos-1.9 
Baso-0.6 Im ___ AbsNeut-5.18 AbsLymp-1.96 AbsMono-0.58 
AbsEos-0.15 AbsBaso-0.05
___ 07:00AM BLOOD ___ PTT-30.5 ___
___ 07:00AM BLOOD Glucose-82 UreaN-16 Creat-1.1 Na-142 
K-4.9 Cl-107 HCO3-24 AnGap-11
___ 07:00AM BLOOD ALT-17 AST-22 LD(LDH)-213 CK(CPK)-291 
AlkPhos-70 TotBili-0.7
___ 07:00AM BLOOD CK-MB-7 cTropnT-<0.01
___ 07:00AM BLOOD Albumin-3.9 Calcium-8.9 Phos-3.6 Mg-2.1 
Cholest-189
___ 07:00AM BLOOD %HbA1c-5.0 eAG-97
___ 07:00AM BLOOD Triglyc-133 HDL-41 CHOL/HD-4.6 
LDLcalc-121
___ 07:00AM BLOOD TSH-5.4*

CTA head/neck:
1. No evidence for acute intracranial findings. 
2. Postoperative changes spine. 
3. No significant narrowing of the carotid, vertebral system in 
the neck or head.

24hr post-tPA NCHCT: 
1. No acute intracranial process, specifically no intracranial 
hemorrhage.
 
Brief Hospital Course:
Mr. ___ is a pleasant ___ with HLD, BPH, GERD, C and L 
spine disc disease s/p surgery who was transferred to ___ 
after he received tPA for R facial weakness, numbness, 
dysarthria. He was last known well at 2:50pm ___. He was 
driving at the time when he noticed right perioral numbness. 
This slowly extended up his jaw into his eye. He then noticed a 
dull aching pain in his right temple as well as behind his right 
ear into the back of his head. This headache lasted for several 
hours and resolved at around 530pm. Went to ___ where 
___ initially 3. Code stroke called and risk and benefit 
discussion of tPA was performed. Pt elected to have tPA given, 
which was done without complication. He was transferred to ___ 
for higher level of care. Neuro exam now significant for only R 
upper and lower facial weakness with eye blink delay, eye 
closure weakness, forehead elevation asymmetry, not improving 
with emotional smile, mild dysarthria. This is consistent with a 
Bell's Palsy. ___ at OSH showed ?medial pontine hypodensity, 
but on re-evaluation this is likely artifact. 24hr post tPA scan 
did not show a hemorrhage. 

He was prescribed a steroid taper and Valtrex. Will also need to 
tape his eye shut at night. He was counseled on these and will 
need follow up with his PCP in the next ___ weeks. 

Pt instructions:
- Steroid taper:
___: Prednisone 60mg (6 tablets) for 2 weeks
___: prednisone 50mg (5 tablets)
___: prednisone 40mg (4 tablets)
___: prednisone 30mg (3 tablets)
___: prednisone 20mg (2 tablets)
___: prednisone 10mg (1 tablet)
___: off prednisone 

- Start Valtrex ___ PO twice per day for 7 days
- At night, please use lacrilube and tape your eye shut. This is 
to prevent any scratches to your cornea when you sleep. Please 
se artificial tears at least twice per day while awake. 
- Please massage your face often and perform facial exercises to 
promote healing of the facial nerve
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO QPM 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. alfuzosin 10 mg oral DAILY 
4. Esomeprazole 40 mg Other DAILY 

 
Discharge Medications:
1.  Artificial Tear Ointment 1 Appl BOTH EYES QPM:PRN dry eye 
RX *white petrolatum-mineral oil [Artificial Tears ___ 
15 %-83 % 1 dab eye at bedtime Refills:*0 
2.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
RX *dextran 70-hypromellose [Artificial Tears (PF)]  1 drop eye 
twice a day Disp #*1 Bottle Refills:*3 
3.  PredniSONE 60 mg PO DAILY Duration: 13 Doses 
Start: Today - ___, First Dose: First Routine 
Administration Time 
See discharge instructions for taper 
This is dose # 1 of 6 tapered doses
RX *prednisone 10 mg ___ tablet(s) by mouth daily Disp #*100 
Tablet Refills:*0 
4.  PredniSONE 50 mg PO DAILY Duration: 1 Dose 
Start: After 60 mg DAILY tapered dose 
See discharge instructions for taper 
This is dose # 2 of 6 tapered doses 
5.  PredniSONE 40 mg PO DAILY Duration: 1 Dose 
Start: After 50 mg DAILY tapered dose 
See discharge instructions for taper 
This is dose # 3 of 6 tapered doses 
6.  PredniSONE 30 mg PO DAILY Duration: 1 Dose 
Start: After 40 mg DAILY tapered dose 
See discharge instructions for taper 
This is dose # 4 of 6 tapered doses 
7.  PredniSONE 20 mg PO DAILY Duration: 1 Dose 
Start: After 30 mg DAILY tapered dose 
See discharge instructions for taper 
This is dose # 5 of 6 tapered doses 
8.  PredniSONE 10 mg PO DAILY Duration: 1 Dose 
See discharge instructions for taper 
This is dose # 6 of 6 tapered doses 
9.  ValACYclovir 500 mg PO Q12H Duration: 7 Days 
RX *valacyclovir 500 mg 1 tablet by mouth twice a day Disp #*14 
Tablet Refills:*0 
10.  alfuzosin 10 mg oral DAILY  
11.  Esomeprazole 40 mg Other DAILY  
12.  Levothyroxine Sodium 50 mcg PO DAILY  
13.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right Bell's Palsy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized after you developed facial numbness and 
weakness on the right. You went to ___ where you received 
tPA due to concern for an acute ischemic stroke. Your symptoms 
however progressed to involve your right forehead as well later 
in the day followed by changes in your hearing out of your right 
ear and pain behind your right ear. These symptoms are more 
consistent with a Bell's palsy involving your right facial nerve 
rather than a stroke. 

We watched you for 24 hours to make sure you did not have any 
adverse effects of tPA. 

For your Bell's Palsy, please take the following medications on 
this schedule:
- ___: Prednisone 60mg (6 tablets) for 2 weeks
___: prednisone 50mg (5 tablets)
___: prednisone 40mg (4 tablets)
___: prednisone 30mg (3 tablets)
___: prednisone 20mg (2 tablets)
___: prednisone 10mg (1 tablet)
___: off prednisone 

- Start Valtrex ___ PO twice per day for 7 days

- At night, please use lacrilube and tape your eye shut. This is 
to prevent any scratches to your cornea when you sleep. Please 
se artificial tears at least twice per day while awake. 

- Please massage your face often and perform facial exercises to 
promote healing of the facial nerve

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___